***********************************************************
*
* PMEG3050EP
*
* Nexperia
*
* 5 A low VF MEGA Schottky barrier rectifier
* IFmax = 5A (average)
* VRmax = 30V
* VFmax = 360mV   @ IF = 5A
* IRmax = 8mA     @ VR = 30V
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD128
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
.SUBCKT PMEG3050EP 1 2
R1 1 2 4.936E+7 
D1 1 2 PMEG3050EP 
*
.MODEL PMEG3050EP D 
+ IS = 0.0001624 
+ N = 1.012 
+ BV = 33 
+ IBV = 0.02
+ RS = 0.00798 
+ CJO = 1.496E-009 
+ VJ = 0.3243 
+ M = 0.503 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*