*$
*TPS5450
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS5450
* Date: 13SEP2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: TPS5450EVM-254
* EVM Users Guide: SLVU211-April 2007
* Datasheet: SLVS757-MARCH 2007
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT TPS5450 VIN NC NC1 ENA PH Boot VSENSE GND
V5          VCC 0 5
V7          13 GND 5
Vvalley     14 GND 556M
Vsaw        ramp 14 DC 0 AC 1 0
+ PWL
+      REPEAT FOREVER ( 0, 0 )
+       (+1.999U 450M)
+       (+0 450M)
+       (+1N 0)
+       (+0 0)
+       (+0 0)
+       (+0 0)
+      ENDREPEAT
IS4         GND 28 1.221M
VIphase     35 12 ; AmperMeter
V6          37 GND 1.221
V2          41 GND 500M
IS1         VIN ENA 5U
V4          Boot1 7 8
V3          VIN 40 5.135
V1          22 GND 3.3
D2          7 VIN  D_1N4001_1
XU1         8 9 D_D_0
C4          8 0 10P IC=0
R9          9 8 2.8k
********changed from 8.5k*******
ECS1        9 0 VALUE = {IF(V(10,0)>7.5,5,0)}
SW6         PH GND J1 GND  S_VSWITCH_1
SW5         12 PH J1 GND  S_VSWITCH_2
R4          J-ramp ramp 1
XU26        16 17 D_D_0
C6          17 0 10P IC=0
R8          16 17 18.8K
********changed from 11.2k*******
*U25         OR(2) VCC 0  17 18 19  U_SN7432_1 IO_STD
X_25         17 18 19 OR2_BASIC_GEN PARAMS: VDD=5
+  VSS=0 VTHRESH=2.5
*U24         AND(2) VCC 0  20 18 16  U_SN7408_1 IO_STD
X_24          20 18 16 AND2_BASIC_GEN PARAMS:
+  VDD=5 VSS=0 VTHRESH=2.5
*XU21        18 20 0 VCC IC_7404_0
XU21         18 20 INV_DELAY_BASIC_GEN PARAMS: VDD=5 VSS=0 VTHRESH=2.5 DELAY = 10n
XOP1        ref_out ea1 22 GND 23 STDOPAMP_0
+ PARAMS: GAIN=206.538K RIN=20MEG ROUT=1 SLEWRATE=1.5MEG FPOLE1=14.96
+ FPOLE2=10MEG VOFFS=0 IBIAS=0 IOFFS=0 VDROPOH=0 VDROPOL=0
*U14         AND(2) VCC 0  24 cycle_current_limit 18  U_SN74S08_1 IO_S
X_14         24 cycle_current_limit 18 AND2_BASIC_GEN PARAMS:
+  VDD=5 VSS=0 VTHRESH=2.5
XU18        26 27 13 GND J1 VCVS-3FB_0
D4          GND 28  D_1N4001_1
SW4         28 GND J1 GND  S_VSWITCH_3
R6          0 29 1K
XU17        23 30 24 0 VCVS-2FB_0
*U10         NAND(2) VCC 0  9 8 31  U_SN74S00_1 IO_S
X_10          9 8 31 NAND2_BASIC_GEN PARAMS: VDD=5 VSS=0 VTHRESH=2.5
*******
*U12         DFF(1) VCC 0
*+       31 32 VCC VCC 33 29  U_SN74S74_1 IO_S
X_12     31 32 VCC VCC 33 29 DFFSBRB_RHPBASIC_GEN PARAMS: VDD=5 VSS=0 VTHRESH=2.5
R7          0 34 1K
XU19        J-ramp GND 32 GND VCVS-2FB_1
*U16         DFF(1) VCC 0
*+       VCC 32 33 32 34 cycle_current_limit  U_SN74S74_1 IO_S
X_16 VCC 32 33 32 34 cycle_current_limit DFFSBRB_RHPBASIC_GEN PARAMS:VDD=5 VSS=0
+VTHRESH=2.5

VCCV1_in    7 35
HCCV1       10 0 VCCV1_in    1
D1          ENA VIN  D_1N4001_1
XU8         28 37 ref_out GND VCVS-2FB_2
R5          Boot1 Boot 50
SW3         J-ramp GND J1 GND  S_VSWITCH_4
XU6         40 GND 26 GND HYSTCOMP_0
+ PARAMS: Vthres=0 Vhyst=165M VoutH=10 VoutL=-10
XU3         ENA 41 27 GND VCVS-2FB_3
R10         26 GND 1K
C5          28 GND 8U IC=0
XU5         J1 J-ramp 44 GND VCVS-2FB_4
SW1         VIN 7 19 0  S_VSWITCH_5
XU2         44 GND VIN GND 30 VCVS-3FB_1
C3          ea1 23 1P IC=0
R3          45 23 3.27MEG
C2          ea1 45 30P IC=0
R2          VSENSE ea1 2.75MEG
C1          46 ea1 20P IC=0
R1          VSENSE 46 260K
.MODEL D_1N4001_1 D( IS=403P N=1.57 BV=50 IBV=10U RS=43.2M
+      CJO=52.8P VJ=300M M=272M FC=500M TT=5.05U
+      EG=1.11 XTI=3 KF=0 AF=1 )

.MODEL S_VSWITCH_1 VSWITCH (RON=800M ROFF=1G VON=499M VOFF=500M)
.MODEL S_VSWITCH_2 VSWITCH (RON=1G ROFF=1U VON=499M VOFF=500M)
.MODEL S_VSWITCH_3 VSWITCH (RON=1M ROFF=1G VON=200M VOFF=300M)
.MODEL S_VSWITCH_4 VSWITCH (RON=1M ROFF=1G VON=200M VOFF=300M)
.MODEL S_VSWITCH_5 VSWITCH (RON=110M ROFF=10MEG VON=2.5 VOFF=0)
.ENDS TPS5450
*$
.SUBCKT D_D_0  1 2
D1 1 2 DD
.MODEL DD D
+ IS=1E-015
+ N=0.01
+ TT=1E-011
.ENDS

*$
* STANDARD OPERATIONAL AMPLIFIER MACROMODEL SUBCIRCUIT
.SUBCKT STDOPAMP_0  INP INM VP VM OUT
+ PARAMS: GAIN=200K RIN=2MEG RINC=1E9 ROUT=75 SLEWRATE=500K FPOLE1=5 FPOLE2=1MEG
+         VDROPOH=1.9 VDROPOL=1.9 VOFFS=1M IBIAS=80N IOFFS=20N
*
.PARAM VOSW = 15
.PARAM PI = 3.141592
.PARAM IS = 8.0E-16
.PARAM VT = 0.02585
.PARAM C1 = {VOSW/ROUT/SLEWRATE}
.PARAM IMAX = {C1*SLEWRATE}
.PARAM R1 = {1/(2*PI*C1*FPOLE1)}
.PARAM GM1 = {GAIN/R1}
.PARAM R2 = 100
.PARAM G2 = {1/R2}
.PARAM GOUT = {1/ROUT}
.PARAM C2 = {1/(2*PI*R2*FPOLE2)}
.PARAM VDF = {VT*LOG(1 + IMAX/IS)}
*
IBIASM      INM 0  {IBIAS - IOFFS}
RINM      INM  8  {2*RINC}
RINP      INP  8  {2*RINC}
IBIAS       10 0   {IBIAS}
VOFFS       10 INP  {VOFFS}
EVP VPI 0 VP 0 1
EVM VMI 0 VM 0 1
VC          VPI 11  {VDROPOH + VDF}
VE          12 VMI  {VDROPOL + VDF}
D1          VM VP  D_1
RP          VP VM  15E3
ROUT        OUT 8  {ROUT}
GMO         8 OUT VALUE =  {V(9,8)*GOUT}
C2          9 8  {C2}
R2          9 8  {R2}
GM2         8 9  VALUE =  {V(7,8)*G2}
RIN         INM 10  {RIN}
EGND        8  0  POLY(2) (VP,0) (VM,0) 0 .5 .5
D3         12 7  D_1
D2          7 11  D_1
C1          7 8  {C1}
R1          7 8  {R1}
GM1         8 7 VALUE = { LIMIT( GM1*V(10,INM), -IMAX, IMAX) }
.MODEL D_1 D( IS={IS} RS=10M )
.ENDS
*$

.SUBCKT VCVS-3FB_0  IN1 IN2 IN3 GND OUT

EB3 OUT GND VALUE= {  IF ( (V(IN1,GND) > 0 & V(IN2,GND) >4.57 & V(IN3,GND) >4.8) ,1 , 0 ) }
.ENDS

*$
.SUBCKT VCVS-2FB_0  IN1 IN2 OUT GND
EB3 3 GND VALUE= { IF (V(IN1) > V(IN2), 5 , 0 )  }
R 3 OUT 100
C OUT GND 20P
.ENDS

*$
.SUBCKT VCVS-2FB_1  IN1 IN2 OUT GND

*90% OF THE CYCLE (+/-0.45)
EB3 3 GND VALUE= {  IF ( (V(IN1,GND) < 0.95) , 5 , 0 ) }
R 3 OUT 1
C OUT GND 1N
.ENDS

*$
.SUBCKT VCVS-2FB_2  IN1 IN2 OUT GND

EB3 OUT GND VALUE= {  IF ( (V(IN1) <V(IN2) ) , V(IN1,GND) , V(IN2,GND)) }

.ENDS
*$

.SUBCKT HYSTCOMP_0  IN+ IN- OUT GND
+ PARAMS: VTHRES=0 VHYST=1 VOUTH=5 VOUTL=0 ROUT=1 TDEL=1N
*
.PARAM VOUTM={(VOUTH-VOUTL)/2}
.PARAM VTHH={VTHRES+VHYST}
.PARAM VTHL={VTHRES-VHYST}
.PARAM COUT={TDEL/0.693}
*
E1 THR GND VALUE= { IF ( V(OUT,GND) < {VOUTM}, {VTHH}, {VTHL}) }
E2 2 GND VALUE= { IF ( V(IN+,IN-) > V(THR,GND), VOUTH , VOUTL ) }
R1 2 OUT {ROUT}
C1 OUT GND {COUT}
.ENDS
*$

.SUBCKT VCVS-2FB_3  IN1 IN2 OUT GND

EB3 OUT GND VALUE= {  IF ( (V(IN1) > V(IN2)) ,5 , 0 ) }

.ENDS
*$

.SUBCKT VCVS-2FB_4  IN1 IN2 OUT GND

EB3 OUT GND VALUE= {  IF ( (V(IN1,GND) > 0.5) , V(IN2,GND) , 0 ) }

.ENDS

*$
.SUBCKT VCVS-3FB_1  IN1 IN2 IN3 GND OUT

EB3 OUT GND VALUE= { (V(IN1)-V(IN2))* V(IN3,GND)/(25)+(0.3) }

.ENDS

*$

.SUBCKT B540C IN OUT
D1 IN OUT B540C
.MODEL B540C D (IS=1.5672E-06 RS=21M N=1.01 IBV=100U
+ CJO=899P M=0.458 BV=50 TT=0 )
.ENDS B540C
*$
*.SUBCKT IC_7404_0 1G 1A GND VCC
*UNoname     INV VCC GND  1G 1A  U_SN7404_1 IO_STD
*.MODEL U_SN7404_1 UGATE( TPLHTY=10N TPHLTY=10N )
*.ENDS

*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {IF(V(A) > VTHRESH ,
+ VSS,VDD)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {IF(V(A) > VTHRESH  |
+ V(B) > VTHRESH,VDD,VSS)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {IF(V(A) > VTHRESH  &
+ V(B) > VTHRESH,VDD,VSS)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {IF(V(A) > VTHRESH  &
+ V(B) > VTHRESH,VSS,VDD)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT DFFSBRB_RHPBASIC_GEN SB RB CLK D  Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 9n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(RB) < VTHRESH,-5,IF(V(SB)< VTHRESH,5, IF(V(CLKint)> VTHRESH,
+ IF(V(D)> VTHRESH,5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 5
D_D11 0 Qint D_D1
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 9n
*******************
RQq Qqqd1 Q 260.38
D_Qq Qqqd1 Q d_d1
****************
EQb Qbr 0 VALUE = {IF( V(Q) > VTHRESH, VSS,VDD)}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.IC V(Qint) {VSS}
.model d_d1 d
+ is=1e-015
+ n=0.0001
+ tt=1e-011
.ENDS DFFSBRB_RHPBASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=5 VSS=0 VTHRESH=2.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {IF(V(A) > VTHRESH ,
+ VDD,VSS)}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {IF(V(YINT2) > VTHRESH ,
+ VDD,VSS)}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=5 VSS=0 VTHRESH=2.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {IF(V(A) > VTHRESH ,
+ VDD,VSS)}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {IF(V(YINT2) > VTHRESH ,
+ VSS,VDD)}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
