* C:\Users\leona\Desktop\qpcb\hardware\qpcb\simulation\MC34063AD_buck_boost\MC34063AD_testbench.asc
C1 Vin 0 100µ
C2 N002 Vout 309p
C3 Vout 0 84µ Rser=0
L1 N003 0 147µ Rser=0
D1 Vout N003 1N5819
R1 N004 0 16.4k
R2 N004 Vout 1k
R3 N001 Vin 0.92
XU1 N001 N003 N002 Vout N004 Vin N001 N001 MC33063A
R4 Vout 0 8.25
V1 Vin 0 PULSE(0 7.5 10u 1m 0 1 1)
.model D D
.lib C:\Users\leona\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 40m 0 0.1u startup uic
.lib MC33063A.LIB
.backanno
.end
