* C:\Users\leona\Desktop\qpcb\hardware\qpcb\simulation\PSU_simulation\PSU.asc
XU1 MP_01 N004 6V 7V5 7V5 LT3083
C1 7V5 0 10µ
C4 6V 0 10µ
R1 N004 0 120k
C5 N004 0 0.1µ
V1 24V 0 V
R7 6V 0 6k
XU3 24V 0 0 24V N001 N002 N003 0 TPS5450_TRANS
C2 24V 0 22µ
C3 N002 N001 10n
L2 N001 7V5 15µ
R2 7V5 N003 10k
R5 N003 0 1k96
C6 7V5 0 220µ
D2 0 N001 B540C
.model D D
.lib C:\Users\leona\Documents\LTspiceXVII\lib\cmp\standard.dio
* *SBR10U200P5 Spice Model v1.0 Last Revised 2/24/2015  Diodes Inc SUPER BARRIER RECTIFIER\n SIMULATOR=SPICE3\n.MODEL DI_SBR10U200P5 D  ( IS=35.49n RS=15.06m BV=220.0 IBV=10.00\n+ CJO=1.190n M=412.1m N=1.366 TT=21.70n EG=480.0m VJ=61.27m )
.tran 0 100u 0 0.1u uic
.lib C:\Users\leona\Desktop\qpcb\hardware\qpcb\simulation\PSU_simulation\TPS5450_TRANS.LIB
.lib LT3083.sub
.backanno
.end
